US08202865B2
4-(5-{2-[(cyclopropylmethoxy)methyl]-2′-methylbiphenyl-4-yl}-1,2,4-oxadiazol-3-yl)-2-fluorobenzoic acid
Methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate, prepared as in example 58, step 1, (75 mg; 0.15 mmol) was dissolved in cyclopropylmethanol (5 mL). The solution was then heated in the microwave at 130° C. for 10 min. Sodium hydroxide (151.05 μL; 5 M; 0.76 mmol) was added and the mixture was heated at 60° C. for 10 min in the microwave. Hydrogen chloride (151.05 μL; 5 M; 0.76 mmol) was added and the mixture was evaporated to dryness. The crude was purified with MD Autoprep, to afford the title compound as a white powder. 1H NMR (DMSO-d6, 300 MHz) 13.63 (br s, 1H), 8.35 (d, J=1.5 Hz, 1H), 8.18 (dd, J=7.8, 1.9 Hz, 1H), 8.13-8.08 (m, 1H), 8.04 (dd, J=8.0, 1.4 Hz, 1H), 7.96 (dd, J=11.1, 1.2 Hz, 1H), 7.43 (d, J=7.9 Hz, 1H), 7.36-7.26 (m, 3H), 7.15 (d, J=7.2 Hz, 1H), 4.30-4.20 (m, 2H), 3.20-3.17 (m, 2H), 2.04 (s, 3H), 1-0.91 (m, 1H), 0.46-40 (m, 2H), 0.14-0.09 (m, 2H). LC/MS (Method B): 457.3 (M−H)−, 459.2 (M+H)+. HPLC (Method A) Rt 5.67 min (Purity: 98.5%).

reactant | Methyl 2-fluoro-4-[5-(2′-methyl-2-{[(methylsulfonyl)oxy]methyl}biphenyl-4-yl)-1,2,4-oxadiazol-3-yl]benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=NOC(=N1)C1=CC(=C(C=C1)C1=C(C=CC=C1)C)COS(=O)(=O)C | C25H21FN2O6S
reactant | Sodium hydroxide | 0.76 mmol, 5 M, 151.05 μL | [OH-].[Na+]
reactant | Hydrogen chloride | 0.76 mmol, 5 M, 151.05 μL | Cl | ClH
reactant | cyclopropylmethanol | 5 mL | C1(CC1)CO | C4H8O
product | 4-(5-{2-[(cyclopropylmethoxy)methyl]-2′-methylbiphenyl-4-yl}-1,2,4-oxadiazol-3-yl)-2-fluorobenzoic acid | C1(CC1)COCC1=C(C=CC(=C1)C1=NC(=NO1)C1=CC(=C(C(=O)O)C=C1)F)C1=C(C=CC=C1)C | C27H23FN2O4
